US05885985
To a stirred solution of 3-nitroaniline, 4.2 g, 0.03 moles, in 100 ml THF was added 15 ml of triethylamine followed by propionyl chloride, 3.5 g, 0.033 moles. The reaction was stirred at room temperature for 18 hours, then the triethylamine hydrochloride was removed by filtration. To the filtrate was added 100 ml of ethyl acetate, and the organic phase was then washed with 1N hydrochloric acid, 100 ml (twice), and then with 2N sodium hydroxide, 100 ml (twice). The organic phase was dried over magnesium sulfate and the solvent was evaporated to yield an oil. The oil was then dissolved in 100 ml of methanol and 20 ml of isopropanol/hydrochloric acid and to this solution was added 250 mg of 10% palladium on carbon. The reaction was then hydrogenated for 3 hours. The catalyst was removed by filtration and the solvent was evaporated. The residue was crystallized from hot isopropanol and ethyl acetate, and was collected by filtration, giving 3-((ethylcarbonyl)amino)aniline hydrochloride.

reactant | 3-nitroaniline | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | isopropanol hydrochloric acid | 20 ml | C(C)(C)O.Cl
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 3-((ethylcarbonyl)amino)aniline hydrochloride | Cl.C(C)C(=O)NC=1C=C(N)C=CC1 | InChI=1S/C9H12N2O.ClH/c1-2-9(12)11-8-5-3-4-7(10)6-8;/h3-6H,2,10H2,1H3,(H,11,12);1H
